US07838483B2
A solution of piperazine (1 g, 11.6 mmol) and acrylonitrile (1.6 g, 30.16 mmol, 2.6 eq) in water (10 cm3) was stirred at room temperature for 5 hours, after which the mixture was extracted with dichloromethane (2×50 cm3). The organic extracts were evaporated under reduced pressure to give the pure doubly cyanoethylated compound 3,3′-(piperazine-1,4-diyl)dipropanenitrile (2.14 g, 94.7%) as a white solid, mp 66-67° C.

reactant | piperazine | 11.6 mmol, 1 g | N1CCNCC1 | C4H10N2
reactant | acrylonitrile | 30.16 mmol, 1.6 g, 2.6 eq | C(C=C)#N | C3H3N
solvent | water | 10 cm3 | O | H2O
product | 3,3′-(piperazine-1,4-diyl)dipropanenitrile | 2.14 g, 94.7% | N1(CCN(CC1)CCC#N)CCC#N | C10H16N4
